US04808586
2-(4-Chlorophenyl)-1H-benzimidazole-4,7-diol
A 1.0 g portion of 2-(4-chlorophenyl)-4,7-dimethoxy-1H-benzimidazole, 1.40 g of aluminum chloride and 50 ml of toluene was heated at reflux for 2 hours, then cooled and poured into cold 3N hydrochloric acid. The resulting solid was collected and recrystallized from ethanol, giving 680 mg of the desired product, mp>300° C.

reactant | 2-(4-chlorophenyl)-4,7-dimethoxy-1H-benzimidazole | ClC1=CC=C(C=C1)C1=NC2=C(N1)C(=CC=C2OC)OC | C15H13ClN2O2
reactant | aluminum chloride | 1.40 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Chlorophenyl)-1H-benzimidazole-4,7-diol | 680 mg | ClC1=CC=C(C=C1)C1=NC2=C(N1)C(=CC=C2O)O | C13H9ClN2O2
